Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath, Lower Extremity Edema, Abdominal
Distension

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ ___ male with
history of hepatitis B virus and alcohol-induced cirrhosis
complicated by hepatocellular carcinoma s/p partial hepatectomy
of segment VIII and VII and multiple TACEs with disease
progression on sorafenib and now receiving nivolumab who 
presents
with shortness of breath, lower extremity edema, and abdominal
distension.

Patient was interviewed with interpreter. His wife was present 
and
his daughter was on speaker phone. He reports worsening 
bilateral
lower extremity edema. He also reports worsening abdominal
distension. He also notes new shortness of breath which is
apparent after walking ___ steps on flat surface. A few weeks
ago he was able to walk a couple miles without difficulty. He
also reports cough with clear sputum as well as intermittently a
small amount of blood. He has nausea and mild abdominal pain
after coughing. He notes generalized weakness.

He presented to clinic today for scheduled visit for nivolumab.
Vitals were Temp 99.0, BP 110/72, HR 90, RR 16, and O2 sat 93%
RA. His labs were notable for stable CBC, Na 132, and rising
LFTs. His nivolumab was held due to worsening LFTs and dyspnea.
He was referred to the ED for further evaluation.

On arrival to the ED, initial vitals were 98.2 88 119/74 20 95%
2L. Exam was notable for scleral icterus, poor air movement at
bases bilaterally with rhonchi half-way up, and bilateral lower
extremity edema. UA was negative. CTA was negative for PE but
showed new pulmonary metastasis and new main portal vein
thrombosis. Paracentesis was attempted but no tappable pocket.
Prior to transfer vitals were 98.7 82 115/66 18 95% 2L.

On arrival to the floor, patient reports breathing is improved
after oxygen. He also notes occasional fevers. He denies
headache, vision changes, dizziness/lightheadedness, chest pain,
palpitations, abdominal pain, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST MEDICAL HISTORY:
- HCC, as above
- Hepatitis B Virus
- EtOH Abuse
- Cirrhosis

PAST ONCOLOGIC HISTORY:
Mr. ___ is a gentleman with hx of hepatitis B virus and
alcohol-induced cirrhosis complicated by hepatocellular 
carcinoma
status post partial hepatectomy of segment VIII and VII on
___ in ___. The original tumor size was
approximately 4 cm. He also then received TACE on ___. A follow-up MRI on ___ showed a 2.1 x 2.2 cm
segment ___ lesion for which he underwent TACE on ___. He then underwent TACE ___ to segment II.

He underwent repeat TACE on ___.

___: Started sorafenib 200 mg BID

___: Stopped sorafenib due to tumor progression.
Consented to start Nivolumab.

___: C1D1 Nivo
___: C2D1 Nivo; paracentesis
___: Treatment held due to worsening SOB, edema, jaundice
and LFT derangement.

 
Social History:
___
Family History:
No family history of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 98.2, BP 113/76, HR 85, RR 18, O2 sat 88% RA -> 96% 4L.
GENERAL: Pleasant man, in no distress, lying in bed comfortably,
speaking in full sentences.
HEENT: Scleral icterus, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Diminished breath sounds at bases.
ABD: Soft, non-tender, distended, well-healed scar, normal bowel
sounds.
EXT: Warm, well perfused, 3+ bilateral lower extremity edema to
the hips.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
98.8 PO 101 / 66R Lying 87 20 93 6L 
GENERAL: Pleasant man, in no distress, lying in bed comfortably,
speaking in full sentences.
HEENT: OP clear
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Diminished breath sounds at bases.
ABD: Soft, non-tender, distended, well-healed scar, normal bowel
sounds.
EXT: Warm, well perfused, 3+ bilateral lower extremity edema to
the hips.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:

___ 08:40AM   PLT COUNT-270
___ 08:40AM   NEUTS-64.6 LYMPHS-15.0* MONOS-16.7* EOS-1.7 
BASOS-1.2* IM ___ AbsNeut-5.00 AbsLymp-1.16* AbsMono-1.29* 
AbsEos-0.13 AbsBaso-0.09*
___ 08:40AM   WBC-7.7 RBC-3.66* HGB-12.1* HCT-34.3* MCV-94 
MCH-33.1* MCHC-35.3 RDW-16.7* RDWSD-56.9*
___ 08:40AM   CEA-2.6 AFP-2.2
___ 08:40AM   ALBUMIN-2.6* CALCIUM-8.1* PHOSPHATE-2.4* 
MAGNESIUM-2.1
___ 08:40AM   cTropnT-<0.01 proBNP-75
___ 08:40AM   ALT(SGPT)-153* AST(SGOT)-222* ALK PHOS-1066* 
TOT BILI-6.8* DIR BILI-4.2* INDIR BIL-2.6
___ 08:40AM   UREA N-15 CREAT-0.7 SODIUM-132* POTASSIUM-3.4 
CHLORIDE-97 TOTAL CO2-21* ANION GAP-14
___ 02:45PM URINE  RBC-0 WBC-9* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 02:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-MOD* UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 02:45PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___

IMAGING:
CTA CHEST  Study Date of ___  
1. Pulmonary embolism in the right upper lobe anterior segmental 
pulmonary 
artery is unchanged compared to ___. 
2. New and enlarging numerous pulmonary metastasis compared to ___. 
3. New main portal vein thrombosis. 
4. Extensive hepatocellular carcinoma with invasion of IVC and 
right atrium, similar to before. 
5. Intrahepatic bile duct dilation is similar to before. 
6. Small ascites and portosystemic varices. 

DISCHARGE LABS:

none. Not checking labs since CMO. 
 
Brief Hospital Course:
___ ___ speaking man with history of hepatitis B 
virus and alcohol-induced cirrhosis complicated by 
hepatocellular carcinoma s/p partial hepatectomy of segment VIII 
and VII and multiple TACEs with disease progression on sorafenib 
and now receiving nivolumab who presents with shortness of 
breath, lower extremity edema, and abdominal distension. 

# GOC-
# ___ s/p partial hepatectomy of segment VIII and VII and 
multiple TACEs with disease progression on sorafenib and now 
receiving nivolumab -
Family meeting held ___ and led by primary oncologist Dr. 
___, in the presence of the patient, his wife, daughter, 
patient navigator ___, interpreter, onc fellow, bedside 
RN, and palliative care attending ___. Mr. ___ shared 
that his values included not suffering and not being in physical 
pain towards the end of life, since his cancer was not getting 
better despite treatments. He elected to pursue going home with 
hospice. ___ was chosen because they have 
___ speaking staff and arrangements were made for a 
hospital bed, commode and comfort pack to be available at home.

# SOB
# abdominal distention
# pulmonary metastasis
# pulmonary embolism- 
Patient required up to 6L oxygen while inpatient and is also 
being discharged with home O2. Decision was made not to start 
anticoagulation since the risks would outweigh the benefits iso 
known varices and tumor infiltration into IVC. On discharge, he 
is comfortable on 6L NC and not having any pain or worsening 
abdominal distention. 

# hepatitis B infection- Entecavir was stopped in the setting of 
goals of care discussion s above. 

Code Status- DNR/DNI, MOLST signed with Dr. ___. 

TRANSITIONAL ISSUES:
=====================
[] pt requiring 6L oxygen while inpatient to maintain oxygen 
saturation
[] pt receiving morphine oral solution, about 4 mg every 4 hours 
to remain comfortable 
[] ebtecavir stopped since not within ___
[] pt requiring benzonatate cough drops and cough syrup for 
symptom management 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Entecavir 0.5 mg PO QHS 
2. Furosemide 20 mg PO DAILY 
3. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
4. milk thistle 500 mg oral BID 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  LORazepam 0.25-0.5 mg PO Q4H:PRN anxiety/SOB beyond opiates  
 
3.  Morphine Sulfate (Oral Solution) 2 mg/mL ___ mg PO Q4H:PRN 
SOB or pain  
4.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
cirrhosis complicated by hepatocellular carcinoma s/p partial 
hepatectomy of segment VIII and VII and multiple TACEs

Secondary:
hepatitis B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
You came to the hospital because you were having shortness of 
breath and lower extremity edema. 

WHAT HAPPENED IN THE HOSPITAL?
Your cancer is most likely causing your shortness of breath and 
abdominal distention. We discussed that ___ is what is 
important to you going forward and you decided that you would 
like to go home with hospice. You received oxygen for your 
shortness of breath and will be going home with oxygen. We 
worked on making you comfortable while you were inpatient. 

WHAT SHOULD YOU DO AT HOME?
You should focus on your comfort and spending time with your 
family. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___